US07122545B2
2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-5-pyrrolidin-1-yl-3H-imidazo[4,5-b]pyridine
0.07 g 3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-5-morpholin-4-yl-3H-imidazo[4,5-b]pyridine (0.15 mmol) was treated with 5N HCl (2 ml) at 90° C. for 1.5 h. The reaction mixture was concentrated, taken up in water (3 ml) and adjusted to pH 10 with ammonium hydroxide (25%), whereupon a precipitation formed. The precipitation was filtered and the crystals were triturated in hot ethanol. After drying in vacuo 0.025 g 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-5-pyrrolidin-4-yl-3H-imidazo[4,5-b]pyridine (39%) was obtained as a yellow solid; M.p.: 264–268° C.

reactant | 3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-5-morpholin-4-yl-3H-imidazo[4,5-b]pyridine | 0.15 mmol, 0.07 g | COCN1C(=NC=2C1=NC(=CC2)N2CCOCC2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C24H28N6O4S
reactant | HCl | 5N, 2 ml | Cl | ClH
product | 2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-5-pyrrolidin-1-yl-3H-imidazo[4,5-b]pyridine | COC1=CC=C(C2=C1N=C(S2)C2=NC=1C(=NC(=CC1)N1CCCC1)N2)N2CCOCC2 | C22H24N6O2S
